US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1,3-adamantanediol and 12 mmole of pyridine were dissolved in 10 mL of DMF. To the mixture, 11 mmole of methoxycarbonyl chloride was added dropwise with stirring at room temperature. Cooling of the resultant mixture with ice was started at about the time exothermic reaction began. When the exothermic reaction is completed, the mixture was heated to 60° C. and then stirred for one hour. As a result, the conversion of 1,3-adamantanediol was 99% and 1-methoxycarbonyloxy-3-adamantanol (yield 85%) was formed.

reactant | 1,3-adamantanediol | 10 mmole | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | pyridine | 12 mmole | N1=CC=CC=C1 | C5H5N
reactant | methoxycarbonyl chloride | 11 mmole | COC(=O)Cl | C2H3ClO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-methoxycarbonyloxy-3-adamantanol | yield 85% | COC(=O)OC12CC3(CC(CC(C1)C3)C2)O | C12H18O4
